US09102591B2
2,3-Dichloro-N-[2-(4-chloro-phenyl)-2-phenyl-ethyl]-benzamide
From 2,3-dichlorobenzoic acid and 2-(4-chloro-phenyl)-2-phenyl-ethylamine. LCMS (MH+): m/z=404.0, tR (minutes, Method D)=0.91

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | 2-(4-chloro-phenyl)-2-phenyl-ethylamine | ClC1=CC=C(C=C1)C(CN)C1=CC=CC=C1 | C14H14ClN
product | 2,3-Dichloro-N-[2-(4-chloro-phenyl)-2-phenyl-ethyl]-benzamide | ClC1=C(C(=O)NCC(C2=CC=CC=C2)C2=CC=C(C=C2)Cl)C=CC=C1Cl | C21H16Cl3NO
